US09428505B2
A mixture of (E)-4-amino-1-((4-(5,5-dimethyl-2,4-dioxoimidazolidine-1-yl)-2,6-dimethylstyryl)sulfonyl)piperidine-4-carboxamide (1.3 g, 2.8 mmol) and palladium hydroxide on carbon (20% Pd) (wetted with approximately 50% water) (1.3 g) in methanol (21 mL) and dimethylformamide (7 mL) was stirred under hydrogen atmosphere at room temperature for four hours. The reaction mixture was filtered and washed, and then the filtrate was concentrated under reduced pressure to afford 4-amino-1-((4-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)-2,6-dimethylphenethyl)sulfonyl)piperidin-4-carboxamide (998 mg, 77%).

reactant | (E)-4-amino-1-((4-(5,5-dimethyl-2,4-dioxoimidazolidine-1-yl)-2,6-dimethylstyryl)sulfonyl)piperidine-4-carboxamide | 2.8 mmol, 1.3 g | NC1(CCN(CC1)S(=O)(=O)\C=C\C1=C(C=C(C=C1C)N1C(NC(C1(C)C)=O)=O)C)C(=O)N | C21H29N5O5S
solvent | methanol | 21 mL | CO | CH4O
solvent | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
catalyst | palladium hydroxide on carbon | 1.3 g | [OH-].[OH-].[Pd+2]
product | 4-amino-1-((4-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)-2,6-dimethylphenethyl)sulfonyl)piperidin-4-carboxamide | 998 mg, 77% | NC1(CCN(CC1)S(=O)(=O)CCC1=C(C=C(C=C1C)N1C(NC(C1(C)C)=O)=O)C)C(=O)N | C21H31N5O5S
